US05095147
Gaseous ammonia is passed for 90 minutes into a stirred solution of 15.45 g (0.1 mol) of 2,2-difluoro-1-methyl-cyclopropane-carbonyl chloride in 80 ml of dioxane at 20° to 30° C. The resultant suspension is then evaporated to dryness under a waterpump vacuum. The residue remaining is stirred with 50 ml of water, filtered off with suction and dried. In this manner, 11 g (81% of theory) of 2,2-difluoro-1-methyl-cyclopropyl-carboxamide in form of a solid substance of melting point 125°-127° C. are obtained.

reactant | ammonia | N | H3N
reactant | 2,2-difluoro-1-methyl-cyclopropane-carbonyl chloride | 0.1 mol, 15.45 g | FC1(C(C1)(C(=O)Cl)C)F | C5H5ClF2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2,2-difluoro-1-methyl-cyclopropyl-carboxamide | 11 g, 81% | FC1(C(C1)(C)C(=O)N)F | C5H7F2NO
